2136-04-16 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Bone marrow biopsy performed at bed side by Heme/Onc, pathology
   pending.  Patient receiving home asthma medications as well as CPAP
   overnight on home settings.
   Patient becoming hypoxic overnight with O2 sats in the low 90s.
   Received Lasix 40mg IV x 1 and 80mg x 1; IVF stopped and patient
   started on Bipap. Calcitonin given.  Despite these measures, calcium
   increasing to 18.8 this morning.
   Pt not tolerating BiPap and continues to remove mask.
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2136-4-16**] 05:20 AM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2136-4-16**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.8
   HR: 97 (85 - 106) bpm
   BP: 151/58(78) {118/42(60) - 151/117(149)} mmHg
   RR: 32 (18 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  4,298 mL
                                                                  1,577 mL
   PO:
             TF:
   IVF:
                                                                  3,298 mL
                                                                  1,577 mL
   Blood products:
   Total out:
                                                                  5,850 mL
                                                                  2,320 mL
   Urine:
                                                                  2,900 mL
                                                                  2,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,552 mL
                                                                   -743 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 7 cmH2O
   PIP: 15 cmH2O
   SpO2: 94%
   ABG: 7.44/49/72/31/7
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic), radiates to axilla, posterior chest, III/VI
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   very scattered at bases, Diminished: )
   Abdominal: Soft, Tender: RUQ, , Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not
   assessed, somewhat drowsy
   Labs / Radiology
   77 K/uL
   8.5 g/dL
   123 mg/dL
   3.1 mg/dL
   31 mEq/L
   4.1 mEq/L
   62 mg/dL
   100 mEq/L
   141 mEq/L
   24.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2136-4-15**]  02:29 PM
                             [**2136-4-16**]  03:47 AM
                             [**2136-4-16**]  05:02 AM
   WBC
   7.4
   Hct
   24.5
   Plt
   77
   Cr
   2.6
   3.1
   TCO2
   34
   Glucose
   121
   123
   Other labs:
   PT / PTT / INR:12.6/19.0/1.1
    ALT / AST:113/67, Alk Phos / T Bili:74/0.8,
   Lactic Acid:1.3 mmol/L,
   LDH:813 IU/L,
   Ca++:18.8 mg/dL, Mg++:1.8 mg/dL, PO4:6.1 mg/dL
   47M with a history asthma, recent dental infection, recent rib
   fracures, now presents with progressive malaise in setting of
   hypercalcemia, renal failure, hyperuricemia, and abnormal differential
   which is highly suggestive of a new malignancy diagnosis.  Would favor
   multiple myeloma as most likely, although lymphoma/leukemia are in
   differential.  Altered mental status, renal failure and
   thrombocytopenia c/w TTP but no schistocytes on smear excluding dx.
   Overall constellation of symptoms is likely explained by severe
   hypercalcemia.
   .
   # Hypercalcemia: Suspected malignancy given the degree of
   hypercalcemia. Admission calcium is 17.7 with an ionized calcium of
   2.13. Not on HCTZ, not taking vitamin D, and not taking calcium.
   Preliminary read of BM biopsy suggests aplastic myeloma. PTH = 8,
   SPEP/UPEP, vitamin D 25 and 1,25, B2 globulin and kappa/lambda levels
   pending.
   - IVF with normal saline at 200cc/hr on hold for now give respiratory
   distress
   - Furosemide 80mg q 12 hours based on nephrology recommendations
   - Trend [**Year (4 digits) **], electrolytes
   - One dose pamidronate on [**4-15**]
   - Calcitonin -> written for 3 doses
   - Trend calcium Q6H for now
   - f/u ACE Level
   - F/U final heme report
   - Check EKG this AM for changes
   .
   # Respiratory Status/volume: Increasing O2 requirement in setting of
   volume resuscitation.  Likely pulmonary edema.  Potentially underlying
   valvular disease given murmur on exam.  Lasix as needed.  Got 20mg IV
   lasix on floor -> unclear what [**Name (NI) **] was to that dose, but lasix naive.
   Increased SOB overnight
 unable to tolerate BiPAP. Currently O2 sats
   ~90%. [**Month (only) 8**] require intubation if O2 sats fall, increased work of
   breathing. ? Infiltrates on CXR.
   - lasix PRN
   - Contiue fluticasone, albuterol inhalers
   - Trend CXR
   - Consider echo
   - f/u blood cultures
   - check sputum cx
   - Start antibiotics for presumed CAP, ceftriaxone/azithromycin
   - f/u echocardiogram
   .
   # Hyperuricemia: Likely due to cell turn over given elevated LDH, in
   setting of dehydration. Complicated by [**Last Name (un) **] and likely contributing to
   [**Last Name (un) **].
   - Start allopurinol 100mg daily
   - serum pH remains alkalemic so will defer bicarbonate infusion.
   - trend pH
   - follow [**Last Name (un) **]
   .
   # Acute kidney injury: Likely combination of hypercalcemia,
   hyperuricemia as a component of tumor lysis, and poor POs.  If tumor is
   of plasma cell origin, immunoglobulins may also play a role.  Continues
   to make good urine.
   - Renal following
 will F/U recs
   - [**Month (only) 8**] require HD for calcium, uric acid, possible tumor lysis
   - Moderate UEos, etiology unclear. Stopping all nonessential meds  -
   - Lasix 80 mg IV BID or PRN
   - Check urine albumin, creatinine, total protein
   - will restart IVF with goal TBB even
   .
   # Likely cancer diagnosis:  Labs pending as above. PSA = 0.3. ESR, CRP
   elevated. EBV Antibody Panel, CMV IgG/IgM Antibody Panel, and
   Toxoplasma IgG/IgM Antibody Panel pending given atypical lymphocytes on
   smear all ordered. Will likely need treatment for underlying malignancy
   soon
 prelim Bx suggests anaplastic myeloma.
   - Heme onc following
 appreciate recs; will obtain any possible
   imaging to eval for lymphadenopathy.  Ideally, patient would have
   non-contrast CT scan, but at the moment, patient unable to tolerate
   lying flat. Will get abdominal ultrasound at a minimum.
   - Will discuss role of steroids with heme-onc team today
   - Skeletal survey if can be done as portable
   .
   # Anemia: Likely due to a bone marrow process. No evidence of TTP or
   intravascular hemolysis. Elevated haptoglobin and ferritin.
   - Likely marrow failure
   - Type and screen up to date, cross match one unit as will likely need
   blood after IVFs given
   - Transfuse for H/H < [**7-25**]
   - Guaiac stools.
   .
   # Hypertension: Continue to follow.  Treat accordingly.
   .
   # Asthma:
   - Albuterol and ipratropium nebs Q6H PRN
   .
   # OSA
   - will attempt to obtain patient
s home CPAP machine as he tolerates
   this better than the machine available here.
   .
   # FEN: IVF as above, replete electrolytes, NPO for now, but ADAT
   # Prophylaxis:
   -pneumoboots
   -Bowel regimen, PPI
   -Pain management with tylenol PRN
   # Access: peripherals
   # Communication: Patient
   # Code: full
   # Disposition: ICU for now, transition to [**Hospital Ward Name **] when clinically
   stable for oncology services.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-4-15**] 10:00 AM
   18 Gauge - [**2136-4-15**] 08:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-04-16 09:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47 yo man with h/o asthma, chronic LBP, rib fractures from mild
   trauma.  Recent dental abscess.  Seen by pulmonologist with malaise,
   SOB, not feeling well.  Was found to be anemic to 25, plts of 101,
   which was new compared to 1 year ago.  Calcium found to be 17.7, and
   creatinine up.  Yesterday got pamidronate, starts on IV NS 200cc/hr,
   and lasix q6h.  Had good urine output.  Was 4200 in , and 5800 out.
   Overnight with increasing respiratory distress, concern for pulmonary
   edema.  Tried on bipap.  Seen by renal and hem onc.  Marrow bx done
   yesterday - preliminary results consistent with myeloma.
   24 Hour Events:
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2136-4-16**] 05:20 AM
   Other medications:
   allopurinol
   calcitonin
   prn atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-4-16**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.6
   HR: 97 (85 - 106) bpm
   BP: 130/55(73) {118/42(60) - 151/117(149)} mmHg
   RR: 38 (18 - 38) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  4,298 mL
                                                                  1,719 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                  3,298 mL
                                                                  1,599 mL
   Blood products:
   Total out:
                                                                  5,850 mL
                                                                  3,160 mL
   Urine:
                                                                  2,900 mL
                                                                  3,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,552 mL
                                                                 -1,441 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 7 cmH2O
   PIP: 15 cmH2O
   SpO2: 93%
   ABG: 7.44/49/72/31/7
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: mild expiratory)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   77 K/uL
   123 mg/dL
   3.1 mg/dL
   31 mEq/L
   4.1 mEq/L
   62 mg/dL
   100 mEq/L
   141 mEq/L
   24.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2136-4-15**]  02:29 PM
                             [**2136-4-16**]  03:47 AM
                             [**2136-4-16**]  05:02 AM
   WBC
   7.4
   Hct
   24.5
   Plt
   77
   Cr
   2.6
   3.1
   TCO2
   34
   Glucose
   121
   123
   Other labs: PT / PTT / INR:12.6/19.0/1.1, ALT / AST:113/67, Alk Phos /
   T Bili:74/0.8, Lactic Acid:1.3 mmol/L, LDH:813 IU/L, Ca++:18.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   Hypoxemia:  CXR more worrisome for PNA.  Will start to treat with CTX
   and Azithro.
   OSA:  Will get home mask.
   Hypercalcemia: Ca still going up.  Restart IVF and continue lasix.
   Continue calcitonin.  On bisphonate currently.
   Vitamin D levels, SPEP, UPEP pending.  Likely due to Myeloma.  PTH
   level 8.
   uric acid.  on allopurinol.
   Myeloma: Bone marrow bx. pending
   heart murmur:  received echo this morning.
   asthma:  on flovent.
   pain management:  tylenol prn.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-4-15**] 10:00 AM
   18 Gauge - [**2136-4-15**] 08:21 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2136-04-17 10:57:00 Physician Attending Progress Note
Chief Complaint: renal failure, hypercalcemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47 yo man presents with severe hypercalcemia, acute renal failure.
   TTE yesterday with hyperdynamic heart.
   24 Hour Events:
 EKG - At [**2136-4-16**] 08:00 AM
 ULTRASOUND - At [**2136-4-16**] 10:30 AM
   abdominal
 TRANSTHORACIC ECHO - At [**2136-4-16**] 02:00 PM
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Azithromycin - [**2136-4-16**] 11:30 AM
   Ceftriaxone - [**2136-4-16**] 12:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2136-4-17**] 12:47 AM
   Other medications:
   allopurinol
   calcitonin
   lasix 80 [**Hospital1 **]
   dexamethasone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2136-4-17**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.4
   HR: 91 (80 - 98) bpm
   BP: 136/57(71) {103/54(63) - 158/65(84)} mmHg
   RR: 24 (22 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  4,618 mL
                                                                    590 mL
   PO:
                                                                    420 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  4,198 mL
                                                                     90 mL
   Blood products:
   Total out:
                                                                  7,090 mL
                                                                  2,150 mL
   Urine:
                                                                  7,090 mL
                                                                  2,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,472 mL
                                                                 -1,560 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   59 K/uL
   169 mg/dL
   3.6 mg/dL
   31 mEq/L
   3.8 mEq/L
   93 mg/dL
   93 mEq/L
   137 mEq/L
   23.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2136-4-15**]  02:29 PM
                             [**2136-4-16**]  03:47 AM
                             [**2136-4-16**]  05:02 AM
                             [**2136-4-16**]  10:42 AM
                             [**2136-4-16**]  05:07 PM
                             [**2136-4-16**]  10:37 PM
                             [**2136-4-17**]  04:55 AM
   WBC
   7.4
   10.7
   Hct
   24.5
   23.4
   Plt
   77
   59
   Cr
   2.6
   3.1
   3.4
   3.4
   3.4
   3.6
   TCO2
   34
   Glucose
   121
   123
   169
   Other labs: PT / PTT / INR:14.2/23.6/1.2, ALT / AST:95/102, Alk Phos /
   T Bili:68/0.4, Fibrinogen:653 mg/dL, Lactic Acid:1.3 mmol/L, LDH:1494
   IU/L, Ca++:13.7 mg/dL, Mg++:1.9 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   Hypercalcemia:  calcium is coming down and he is doing well.  Continue
   lasix and IVF.
   Respirator distress/hypoxemia:  improved.  CT concerning for atypical
   infection.  Continue azithro and ceftriaxone
   acute renal failure:  creatinine increasing
   multiple myeloma:  continue dexamethasone.  Will transfer to [**Hospital Ward Name **].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-4-15**] 10:00 AM
   18 Gauge - [**2136-4-15**] 08:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2136-04-18 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - spontaneously stabilized on 3L NC
   - continued to have good UOP (~200 cc/hr) with IVF + lasix
   - uric acid downtrending s/p rasburicase; trending tumor lysis labs q6h
   - per BMT, probable plan for Velcade tmrw
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Azithromycin - [**2136-4-16**] 11:30 AM
   Ceftriaxone - [**2136-4-17**] 12:00 PM
   Levofloxacin - [**2136-4-17**] 10:00 PM
   Cefipime - [**2136-4-18**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2136-4-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-4-18**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 76 (76 - 95) bpm
   BP: 150/76(91) {120/53(71) - 150/76(91)} mmHg
   RR: 21 (21 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,271 mL
                                                                  1,100 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                  1,771 mL
                                                                  1,100 mL
   Blood products:
   Total out:
                                                                  4,110 mL
                                                                  2,640 mL
   Urine:
                                                                  4,110 mL
                                                                  2,640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,839 mL
                                                                 -1,540 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 98%
   ABG: 7.47/44/209/31/8
   Physical Examination
   GEN: NAD
   CV: RRR, no murmurs, rubs, gallops
   PULM: Mild expiratory wheezes throughout with crackles at the bases
   bilaterally and increased work of breathing
   ABD: soft, obese, NT/ND, normoactive bowel sounds
   EXT: warm, well-perfused, 2+ dorsalis pedis pulsations
   Labs / Radiology
   43 K/uL
   7.7 g/dL
   163 mg/dL
   3.5 mg/dL
   31 mEq/L
   3.6 mEq/L
   127 mg/dL
   96 mEq/L
   140 mEq/L
   22.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2136-4-15**]  02:29 PM
                             [**2136-4-16**]  03:47 AM
                             [**2136-4-16**]  05:02 AM
                             [**2136-4-16**]  10:42 AM
                             [**2136-4-16**]  05:07 PM
                             [**2136-4-16**]  10:37 PM
                             [**2136-4-17**]  04:55 AM
                             [**2136-4-17**]  07:51 PM
                             [**2136-4-17**]  10:03 PM
                             [**2136-4-18**]  05:25 AM
   WBC
   7.4
   10.7
   11.5
   Hct
   24.5
   23.4
   22.5
   Plt
   77
   59
   43
   Cr
   2.6
   3.1
   3.4
   3.4
   3.4
   3.6
   3.6
   3.5
   TropT
   0.01
   TCO2
   34
   33
   Glucose
   121
   123
   169
   149
   163
   Other labs: PT / PTT / INR:14.4/22.8/1.2, CK / CKMB /
   Troponin-T:104/2/0.01, ALT / AST:95/102, Alk Phos / T Bili:68/0.4,
   Fibrinogen:641 mg/dL, Lactic Acid:0.8 mmol/L, LDH:2590 IU/L, Ca++:9.9
   mg/dL, Mg++:2.2 mg/dL, PO4:6.6 mg/dL
   CT TORSO:
   1. Findings most consistent with multiple myeloma with innumerable
   lucent
   lesions seen throughout all visualized osseous structures.
   2. Diffuse ground glass and partially nodular opacities throughout both
   lungs
   is a nonspecific finding, though raises concern for an atypical
   infection;
   pulmonary edema alone is felt less likely.
   3. No lymphadenopathy.
   Assessment and Plan
   47 yo M with asthma, OSA, chronic low back pain, recent rib fracure,
   who presented with malaise & DOE found to have bony lesions on CT and a
   constellation of hematologic/electrolyte findings consistent with
   multiple myeloma.
   .
   # Dyspnea/Respiratory Distress: Patient with increasing O2 requirement
   in setting of known asthma, fluid therapy, and new right middle lobe
   pneumonia with pulmonary edema. Also with CT chest on [**4-16**] with diffuse
   ground glass opacities.  Patient also with hyperdynamic heart on TTE
   (EF 75%), elevated BNP to 4232, moderate pulmonary artery hypertension.
   Receiving Lasix [**Hospital1 **] with fluids and now on antibiotics.
   - Lasix 80mg [**Hospital1 **]
   - IVF's to titrate to UOP 200-300cc/hr
   - Levofloxacin & Cefepime, renally dosed, day [**2-12**]
   - O2 to maintain sats >92%  using face tent for now
   - CPAP at night at 11cm H2O
   .
   # Multiple Myeloma: Patient with M-protein in both urine & serum
   identified as IgG kappa as well as end-organ dammage manifested as ARF
   and anemia, diffuse lytic lesions on CT and hypercalcemia suggests a
   diagnosis multiple myeloma. Bone marrow biopsy results are positive for
   myeloma, but patient has commenced Dexamethasone therapy as of [**4-16**].
   Normal serum viscosity and patient without signs or symptoms of
   hyperviscosity syndrome, but beta-2 microglobulin was 6.8. EBV/CMV/Toxo
   negative.
   - K/L light chain ratio pending
   - Continue Dexamethasone 40mg IV qday, day [**3-8**]
   - Continue IVF's at 150cc NS/hr, titrate to UOP of 200-300cc/hr
   - Continue Lasix 80mg [**Hospital1 **]
   - F/U skeletal survey results
   - Oncology following, will guide treatment
   .
   # Hypercalcemia: Likely malignant, improved since admission. Received
   Calcitonin ([**Date range (1) 12597**]) x 3 doses, Pamidronate ([**4-15**]). Receiving IVF's &
   Foley in place. PTH low, TSH normal.
   - Goal urine output 200-300cc/hr
   - Continue IV NS as above
   - Lasix as above
   - Dexamethasone as above
   - q6H labs
   - Vitamin D [**1-30**] pending
   - Vitamin D 25 pending
   .
   # Hyperuricemia: Likely due to rate of cellular proliferation in
   conjunction with ARF. Received Rasburicase [**4-17**].
   - Continue Allopurinol 100mg daily
   - Brisk UOP as above
   - Avoid HCO3 as it will precipitate calcium & phosphate
   - Repeat tumor lysis labs q6h (rasburicase precautions; uric acid level
   must be measured in green top on ice and spun on a cooled centrifuge)
   .
   # Acute renal insufficiency: Cr 3.5, stable/downtrending from
   yesterday. Renal following. Renal failure is likely tubular injury from
   cast nephropathy in conjunction with hypercalcemia, hyperuricemia.
   - f/u renal recs
   - [**Month (only) 8**] require renal biopsy if function does not improve
   - Continuous IVF's/Lasix to preempt further tubular injury
   .
   # Anemia/Thrombocytopenia: Low reticulocyte count, elevated haptoglobin
   & ferritin demonstrating insufficient erythropoeisis.  Likely secondary
   to massive marrow infilitration from multiple myeloma.  No evidence of
   TTP, ITP, or intravascular hemolysis.
   - Maintain active T&S
   - Transfuse for HCT <25
   - obtain transfusion goals for platelets from BMT service
   - Guaiac stools
   .
   # Epistaxis: baseline problem worsened by thrombocytopenia and dry air
   of Nasal cannula
   - afrin first line, packing if profuse with appropriate antibiotic ppx
   - avoid nasal cannula, CPAP may worsen as well
   - transfuse plateletes prn
   .
   # Asthma: Continue Albuterol, Fluticasone, & Ipratropium nebs Q6H PRN
   .
   # FEN: IVF as above, replete electrolytes, regular
   .
   # Prophylaxis:
   -DVT ppx with pneumoboots/CPAP
   -Bowel regimen, PPI
   -Pain management with tylenol PRN
   .
   # Access: peripherals
   # Communication: Patient
   # Code: FULL
   # Disposition: to BMT floor today if respiratory status remains stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-4-17**] 08:00 PM
   20 Gauge - [**2136-4-17**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-04-18 11:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experienced epistaxis last PM, eventually controlled with pressure on
   nares.
   Less dyspneic.
   Mental status clearer.
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Azithromycin - [**2136-4-16**] 11:30 AM
   Ceftriaxone - [**2136-4-17**] 12:00 PM
   Levofloxacin - [**2136-4-17**] 10:00 PM
   Cefipime - [**2136-4-18**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2136-4-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2136-4-18**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 80 (73 - 95) bpm
   BP: 128/65(78) {120/53(72) - 150/76(91)} mmHg
   RR: 20 (20 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,271 mL
                                                                  1,630 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                  1,771 mL
                                                                  1,630 mL
   Blood products:
   Total out:
                                                                  4,110 mL
                                                                  3,340 mL
   Urine:
                                                                  4,110 mL
                                                                  3,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,839 mL
                                                                 -1,710 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 92%
   ABG: 7.47/44/209/31/8
   PaO2 / FiO2: 261
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Dryed blood in nares
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: petichae on hands/palms, feet/soles, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.7 g/dL
   43 K/uL
   163 mg/dL
   3.5 mg/dL
   31 mEq/L
   3.6 mEq/L
   127 mg/dL
   96 mEq/L
   140 mEq/L
   22.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2136-4-15**]  02:29 PM
                             [**2136-4-16**]  03:47 AM
                             [**2136-4-16**]  05:02 AM
                             [**2136-4-16**]  10:42 AM
                             [**2136-4-16**]  05:07 PM
                             [**2136-4-16**]  10:37 PM
                             [**2136-4-17**]  04:55 AM
                             [**2136-4-17**]  07:51 PM
                             [**2136-4-17**]  10:03 PM
                             [**2136-4-18**]  05:25 AM
   WBC
   7.4
   10.7
   11.5
   Hct
   24.5
   23.4
   22.5
   Plt
   77
   59
   43
   Cr
   2.6
   3.1
   3.4
   3.4
   3.4
   3.6
   3.6
   3.5
   TropT
   0.01
   TCO2
   34
   33
   Glucose
   121
   123
   169
   149
   163
   Other labs: PT / PTT / INR:14.4/22.8/1.2, CK / CKMB /
   Troponin-T:104/2/0.01, ALT / AST:95/102, Alk Phos / T Bili:68/0.4,
   Differential-Neuts:33.0 %, Band:1.0 %, Lymph:51.0 %, Mono:5.0 %,
   Eos:0.0 %, Fibrinogen:641 mg/dL, Lactic Acid:0.8 mmol/L, LDH:2590 IU/L,
   Ca++:9.9 mg/dL, Mg++:2.2 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   47 yom asthma, OSA, chronic low back pain, recent rib fracure now with
   multiple myeloma.
   RESPIRATORY DISTRESS -- CXR and CT consistent with pulmonary edema,
   suspect related to volume resusitation.  Underlying asthma, OSA,
   moderate pulmonary HTN.  Continue net diuresis.  Provide oxygen,
   maintain SaO2 >90%.
   PNEUMONIA -- continue Levofloxacin & Cefepime, renally dosed, day 1 for
   CAP
   ASTHMA -- Continue Albuterol, Fluticasone, & Ipratropium nebs Q6H PRN
   OSA -- CPAP at night at 11cm H20
   MULTIPLE MYELOMA -- Dx confirmed by bone marrow biopsy.  Awaiting
   initiating chemotherapy.  Continue dexamethasome.
   ALTERED  MENTAL STATUS -- improved.  Monitor.
   FLUIDS -- Continue IVF's at 150cc NS/hr, titrate to UOP of
   200-300cc/hr.  Use lasix as needed.
   EPISTAXIS -- chronic history, escalation in context of
   thrombocytopenia.  If persists or escalated, consider ENT evaluation
   and packing
   THROMBOCYTOPENIA -- related to myeloma.  Monitor.  WOuld transfuse if
   active bleeding.
   HYPERCALCEMIA -- Likely malignant, improved since admission. Received
   Calcitonin ([**Date range (1) 12597**]) x 3 doses, Pamidronate ([**4-15**]). Receiving IVF's &
   Foley in place.  PTH low, TSH normal.
   HYPERURICEMIA -- Likely due to rate of cellular proliferation in
   conjunction with ARF. Received Rasburicase this PM.  Continue
   Allopurinol 100mg daily
   ACUTE RENAL FAILURE -- Cr 3.7 and continuing to rise. Renal following.
   Renal failure is likely tubular injury from cast nephropathy in
   conjunction with hypercalcemia, hyperuricemia.
   ANEMIA -- Low reticulocyte count, elevated haptoglobin & ferritin.
   demonstrating insufficient erythropoeisis.  No evidence of TTP or
   intravascular hemolysis.  Transfuse for HCT <25.  Guaiac stools
   FLUIDS -- IVF as above, replete electrolytes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-4-17**] 08:00 PM
   20 Gauge - [**2136-4-17**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Discussed with wife during AM rounds (family
   attended bedside rounds).  Answered all questions.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2136-04-19 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - hct/plt, transfuse plt, bumped appropriately, gotten type and cross.
   - BMT rec: hit, fungal markers, IgG level, UPEP, LFTs daily, DIC labs
   daily, TLS labs Q8, d/c allopurinol, starting chemo treatment.
   - Renal rec: SPEP, UPEP, 24 Urine protein, avoid diuresis if possible,
   smear to look for schisto, PRN lasix, and transfuse 1 U PRBC
   - EKG did not show anything impressive.
   - started Chemo, gained fluid after transfusion, giving lasix 80mg IV
   x1.
   - got Hepatitis panel and HIV serology
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Azithromycin - [**2136-4-16**] 11:30 AM
   Ceftriaxone - [**2136-4-17**] 12:00 PM
   Levofloxacin - [**2136-4-17**] 10:00 PM
   Cefipime - [**2136-4-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2136-4-18**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-4-19**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 70 (70 - 85) bpm
   BP: 116/65(77) {108/48(65) - 141/84(89)} mmHg
   RR: 19 (19 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  6,032 mL
                                                                  1,478 mL
   PO:
                                                                  1,560 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  3,922 mL
                                                                  1,358 mL
   Blood products:
                                                                    550 mL
   Total out:
                                                                  7,340 mL
                                                                  2,680 mL
   Urine:
                                                                  7,340 mL
                                                                  2,680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,308 mL
                                                                 -1,202 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   62 K/uL
   8.0 g/dL
   174 mg/dL
   3.1 mg/dL
   26 mEq/L
   3.6 mEq/L
   136 mg/dL
   102 mEq/L
   143 mEq/L
   24.5 %
   12.7 K/uL
        [image002.jpg]
                             [**2136-4-16**]  05:07 PM
                             [**2136-4-16**]  10:37 PM
                             [**2136-4-17**]  04:55 AM
                             [**2136-4-17**]  07:51 PM
                             [**2136-4-17**]  10:03 PM
                             [**2136-4-18**]  05:25 AM
                             [**2136-4-18**]  09:36 AM
                             [**2136-4-18**]  03:07 PM
                             [**2136-4-18**]  10:00 PM
                             [**2136-4-19**]  04:10 AM
   WBC
   10.7
   11.5
   12.7
   Hct
   23.4
   22.5
   24.5
   Plt
   59
   43
   66
   62
   Cr
   3.4
   3.4
   3.6
   3.6
   3.5
   3.5
   3.4
   3.3
   3.1
   TropT
   0.01
   TCO2
   33
   Glucose
   169
   149
   163
   166
   147
   155
   174
   Other labs: PT / PTT / INR:17.4/24.1/1.6, CK / CKMB /
   Troponin-T:104/2/0.01, ALT / AST:67/88, Alk Phos / T Bili:54/0.4,
   Differential-Neuts:33.0 %, Band:1.0 %, Lymph:51.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:150 ng/mL, Fibrinogen:435 mg/dL, Lactic Acid:0.8
   mmol/L, LDH:2435 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:6.7 mg/dL
   Skeletal Survey:
   1. No obvious lucent lesions identified radiographically. However, the
   torso
   CT obtained the same day shows innumerable small lytic foci which are
   consistent with myeloma. Please see report of that exam. Subtle
   scalloping
   along left femoral diaphysis lateral cortex is of equivocal clinical
   significance.
   2. Diffuse pulmonary parenchymal opacities which require further
   evaluation.
   Again, please see contemporaneous CT report.
   3. Degenerative changes in the spine.
   4. Aortic calcification, unusual in someone of this age. Is there a
   history of
   diabetes or vasculopathy?
   Assessment and Plan
   47 yo M with asthma, OSA, chronic low back pain, recent rib fracure,
   who presented with malaise & DOE found to have bony lesions on CT and a
   constellation of hematologic/electrolyte findings consistent with
   multiple myeloma.
   .
   # Dyspnea/Respiratory Distress: Patient with increasing O2 requirement
   in setting of known asthma, fluid therapy, and new right middle lobe
   pneumonia with pulmonary edema. Also with CT chest on [**4-16**] with diffuse
   ground glass opacities.  Patient also with hyperdynamic heart on TTE
   (EF 75%), elevated BNP to 4232, moderate pulmonary artery hypertension.
   Receiving Lasix [**Hospital1 **] with fluids and now on antibiotics.
   - Lasix 80mg [**Hospital1 **]
   - IVF's to titrate to UOP 200-300cc/hr
   - Levofloxacin & Cefepime, renally dosed, day [**2-12**]
   - O2 to maintain sats >92%  using face tent for now
   - CPAP at night at 11cm H2O
   .
   # Multiple Myeloma: Patient with M-protein in both urine & serum
   identified as IgG kappa as well as end-organ dammage manifested as ARF
   and anemia, diffuse lytic lesions on CT and hypercalcemia suggests a
   diagnosis multiple myeloma. Bone marrow biopsy results are positive for
   myeloma, but patient has commenced Dexamethasone therapy as of [**4-16**].
   Normal serum viscosity and patient without signs or symptoms of
   hyperviscosity syndrome, but beta-2 microglobulin was 6.8. EBV/CMV/Toxo
   negative.
   - K/L light chain ratio pending
   - Continue Dexamethasone 40mg IV qday, day [**3-8**]
   - Continue IVF's at 150cc NS/hr, titrate to UOP of 200-300cc/hr
   - Continue Lasix 80mg [**Hospital1 **]
   - F/U skeletal survey results
   - Oncology following, will guide treatment
   .
   # Hypercalcemia: Likely malignant, improved since admission. Received
   Calcitonin ([**Date range (1) 12597**]) x 3 doses, Pamidronate ([**4-15**]). Receiving IVF's &
   Foley in place. PTH low, TSH normal.
   - Goal urine output 200-300cc/hr
   - Continue IV NS as above
   - Lasix as above
   - Dexamethasone as above
   - q6H labs
   - Vitamin D [**1-30**] pending
   - Vitamin D 25 pending
   .
   # Hyperuricemia: Likely due to rate of cellular proliferation in
   conjunction with ARF. Received Rasburicase [**4-17**].
   - Continue Allopurinol 100mg daily
   - Brisk UOP as above
   - Avoid HCO3 as it will precipitate calcium & phosphate
   - Repeat tumor lysis labs q6h (rasburicase precautions; uric acid level
   must be measured in green top on ice and spun on a cooled centrifuge)
   .
   # Acute renal insufficiency: Cr 3.1, stable/downtrending from
   yesterday. Renal following. Renal failure is likely tubular injury from
   cast nephropathy in conjunction with hypercalcemia, hyperuricemia.
   - f/u renal recs
   - [**Month (only) 8**] require renal biopsy if function does not improve
   - Continuous IVF's/Lasix to preempt further tubular injury
   .
   # Anemia/Thrombocytopenia: Low reticulocyte count, elevated haptoglobin
   & ferritin demonstrating insufficient erythropoeisis.  Likely secondary
   to massive marrow infilitration from multiple myeloma.  No evidence of
   TTP, ITP, or intravascular hemolysis.
   - Maintain active T&S
   - Transfuse for HCT <25
   - obtain transfusion goals for platelets from BMT service
   - Guaiac stools
   .
   # Epistaxis: baseline problem worsened by thrombocytopenia and dry air
   of Nasal cannula
   - afrin first line, packing if profuse with appropriate antibiotic ppx
   - avoid nasal cannula, CPAP may worsen as well
   - transfuse plateletes prn
   .
   # Asthma: Continue Albuterol, Fluticasone, & Ipratropium nebs Q6H PRN
   .
   # FEN: IVF as above, replete electrolytes, regular
   .
   # Prophylaxis:
   -DVT ppx with pneumoboots/CPAP
   -Bowel regimen, PPI
   -Pain management with tylenol PRN
   .
   # Access: peripherals
   # Communication: Patient
   # Code: FULL
   # Disposition: to BMT floor today if respiratory status remains stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-4-17**] 08:00 PM
   20 Gauge - [**2136-4-17**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-04-19 12:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerating net diuresis.
   States overall to feel "much better"
   Remains thirsty, requesting water.
   Received PRBC 1 unit.
   Received plts.
   No further nosebleeds.
   Started chemotherapy last PM.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-4-17**] 12:00 PM
   Levofloxacin - [**2136-4-17**] 10:00 PM
   Cefipime - [**2136-4-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2136-4-19**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 70 (68 - 85) bpm
   BP: 118/57(70) {109/48(65) - 133/84(89)} mmHg
   RR: 22 (19 - 33) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  6,032 mL
                                                                  2,063 mL
   PO:
                                                                  1,560 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  3,922 mL
                                                                  1,703 mL
   Blood products:
                                                                    550 mL
   Total out:
                                                                  7,340 mL
                                                                  3,610 mL
   Urine:
                                                                  7,340 mL
                                                                  3,610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,308 mL
                                                                 -1,547 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 91%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, petichae on palms soles
   resolving
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   55 K/uL
   174 mg/dL
   3.1 mg/dL
   26 mEq/L
   3.6 mEq/L
   136 mg/dL
   100 mEq/L
   141 mEq/L
   23.7 %
   9.7 K/uL
        [image002.jpg]
                             [**2136-4-16**]  10:37 PM
                             [**2136-4-17**]  04:55 AM
                             [**2136-4-17**]  07:51 PM
                             [**2136-4-17**]  10:03 PM
                             [**2136-4-18**]  05:25 AM
                             [**2136-4-18**]  09:36 AM
                             [**2136-4-18**]  03:07 PM
                             [**2136-4-18**]  10:00 PM
                             [**2136-4-19**]  04:10 AM
                             [**2136-4-19**]  09:52 AM
   WBC
   10.7
   11.5
   12.7
   9.7
   Hct
   23.4
   22.5
   24.5
   23.7
   Plt
   59
   43
   66
   62
   55
   Cr
   3.4
   3.6
   3.6
   3.5
   3.5
   3.4
   3.3
   3.1
   TropT
   0.01
   TCO2
   33
   Glucose
   169
   149
   163
   166
   147
   155
   174
   Other labs: PT / PTT / INR:17.1/25.2/1.5, CK / CKMB /
   Troponin-T:104/2/0.01, ALT / AST:67/88, Alk Phos / T Bili:54/0.3,
   Differential-Neuts:33.0 %, Band:1.0 %, Lymph:51.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:150 ng/mL, Fibrinogen:440 mg/dL, Lactic Acid:0.8
   mmol/L, LDH:2214 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   47 yom asthma, OSA, chronic low back pain, recent rib fracure now with
   multiple myeloma.
   RESPIRATORY DISTRESS -- CXR and CT consistent with pulmonary edema,
   suspect related to volume resusitation.  Underlying asthma, OSA,
   moderate pulmonary HTN.  Rib fractures likely contributing to limiting
   respiratory efforts.  Continue net diuresis.  Provide oxygen, maintain
   SaO2 >90%.
   PNEUMONIA -- Possible RLL pneuomonia.  Continue Levofloxacin &
   Cefepime, renally dosed.
   ASTHMA -- Continue Albuterol, Fluticasone, & Ipratropium nebs q6H PRN
   OSA
 Nasal CPAP at night at 11cm H20
   MULTIPLE MYELOMA -- Dx confirmed by bone marrow biopsy.  Awaiting
   initiating chemotherapy.  Continue dexamethasome.
   ALTERED  MENTAL STATUS -- improved.  Monitor.
   FLUIDS -- Continue IVF's at 150cc NS/hr, titrate to UOP of
   200-300cc/hr.  Use lasix as needed.  Restrict PO intake.
   EPISTAXIS -- chronic history, escalation in context of
   thrombocytopenia.  If persists or escalated, consider ENT evaluation
   and packing
   THROMBOCYTOPENIA -- related to myeloma.  Good response to plts
   transfusion.  Monitor.  Transfuse <50
   HYPERCALCEMIA -- Likely malignant, improved since admission. Received
   Calcitonin ([**Date range (1) 12597**]) x 3 doses, Pamidronate ([**4-15**]). Receiving IVF's &
   Foley in place.  PTH low, TSH normal.
   HYPERURICEMIA -- Likely due to rate of cellular proliferation in
   conjunction with ARF. Received Rasburicase this PM.  Continue
   Allopurinol 100mg daily
   ACUTE RENAL FAILURE -- Cr 3.7 and continuing to rise. Renal following.
   Renal failure is likely tubular injury from cast nephropathy in
   conjunction with hypercalcemia, hyperuricemia.
   ANEMIA -- Low reticulocyte count, elevated haptoglobin & ferritin.
   demonstrating insufficient erythropoeisis.  No evidence of TTP or
   intravascular hemolysis.  Transfuse for HCT <25.  Guaiac stools
   FLUIDS -- IVF as above, replete electrolytes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-4-17**] 08:00 PM
   20 Gauge - [**2136-4-17**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2136-04-20 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - HIT...negative
   - Renal: if continues to improve, will forego plasmapheresis
   - BMT --> one more night in ICU. Likely call-out in AM
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-4-17**] 12:00 PM
   Levofloxacin - [**2136-4-19**] 10:00 PM
   Cefipime - [**2136-4-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-4-20**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 73 (70 - 81) bpm
   BP: 122/52(67) {108/52(66) - 138/78(86)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  5,716 mL
                                                                  2,051 mL
   PO:
                                                                  1,560 mL
                                                                    720 mL
   TF:
   IVF:
                                                                  4,156 mL
                                                                  1,331 mL
   Blood products:
   Total out:
                                                                  7,690 mL
                                                                  1,810 mL
   Urine:
                                                                  7,690 mL
                                                                  1,810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,974 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   50 K/uL
   7.4 g/dL
   159 mg/dL
   2.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   122 mg/dL
   105 mEq/L
   141 mEq/L
   21.1 %
   8.3 K/uL
        [image002.jpg]
                             [**2136-4-17**]  10:03 PM
                             [**2136-4-18**]  05:25 AM
                             [**2136-4-18**]  09:36 AM
                             [**2136-4-18**]  03:07 PM
                             [**2136-4-18**]  10:00 PM
                             [**2136-4-19**]  04:10 AM
                             [**2136-4-19**]  09:52 AM
                             [**2136-4-19**]  03:20 PM
                             [**2136-4-19**]  09:45 PM
                             [**2136-4-20**]  05:41 AM
   WBC
   11.5
   12.7
   9.7
   8.3
   Hct
   22.5
   24.5
   23.7
   23.1
   21.1
   Plt
   43
   66
   62
   55
   57
   50
   Cr
   3.6
   3.5
   3.5
   3.4
   3.3
   3.1
   3.0
   2.7
   2.5
   TropT
   0.01
   Glucose
   149
   163
   166
   147
   155
   174
   150
   159
   Other labs: PT / PTT / INR:17.0/23.1/1.5, CK / CKMB /
   Troponin-T:104/2/0.01, ALT / AST:67/88, Alk Phos / T Bili:54/0.3,
   Differential-Neuts:33.0 %, Band:1.0 %, Lymph:51.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:150 ng/mL, Fibrinogen:440 mg/dL, Lactic Acid:0.8
   mmol/L, LDH:2214 IU/L, Ca++:7.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   47 yo M with asthma, OSA, chronic low back pain, recent rib fracure,
   who presented with malaise & DOE found to have bony lesions on CT and a
   constellation of hematologic/electrolyte findings consistent with
   multiple myeloma.
   .
   # Dyspnea/Respiratory Distress: Likely [**2-7**] pulm edema +/- RML
   pneumonia.  Patient also with hyperdynamic heart on TTE (EF 75%),
   elevated BNP to 4232, moderate pulmonary artery hypertension.
   - IVFs + lasix PRN to titrate to UOP 200-300cc/hr
   - Levofloxacin & Cefepime, renally dosed, day [**4-11**]
   - O2 to maintain sats >92%  using NC
   - CPAP at night at 11cm H2O
   .
   # Multiple Myeloma: Patient with M-protein in both urine & serum
   identified as IgG kappa as well as end-organ dammage manifested as ARF
   and anemia, diffuse lytic lesions on CT and hypercalcemia suggests a
   diagnosis multiple myeloma. Bone marrow biopsy results are positive for
   myeloma, but patient has commenced Dexamethasone therapy as of [**4-16**].
   Normal serum viscosity and patient without signs or symptoms of
   hyperviscosity syndrome, but beta-2 microglobulin was 6.8. EBV/CMV/Toxo
   negative.
   - K/L light chain ratio pending
   - completed 4 day course of dexamethasone
   - Continue IVF's at 150cc NS/hr, titrate to UOP of 200-300cc/hr
   - Oncology following, will guide treatment
   .
   # Hypercalcemia: Likely malignant, improved since admission. Received
   Calcitonin ([**Date range (1) 12597**]) x 3 doses, Pamidronate ([**4-15**]). Receiving IVF's &
   Foley in place. PTH low, TSH normal.
   - Goal urine output 200-300cc/hr
   - Vitamin D levels low
   .
   # Hyperuricemia: Likely due to rate of cellular proliferation in
   conjunction with ARF. Received Rasburicase [**4-17**].
   - d/ced allopurinol
   - Brisk UOP as above
   - Avoid HCO3 as it will precipitate calcium & phosphate
   - Repeat tumor lysis labs q6h (rasburicase precautions; uric acid level
   must be measured in green top on ice and spun on a cooled centrifuge)
   .
   # Acute renal insufficiency: Cr 3.1, stable/downtrending from
   yesterday. Renal following. Renal failure is likely tubular injury from
   cast nephropathy in conjunction with hypercalcemia, hyperuricemia.
   - f/u renal recs
   - Continuous IVF's/Lasix to preempt further tubular injury
   .
   # Anemia/Thrombocytopenia: Low reticulocyte count, elevated haptoglobin
   & ferritin demonstrating insufficient erythropoeisis.  Likely secondary
   to massive marrow infilitration from multiple myeloma.  No evidence of
   TTP, ITP, or intravascular hemolysis.
   - Maintain active T&S
   - Transfuse for HCT < 23
   - obtain transfusion goals for platelets from BMT service
   - Guaiac stools
   .
   # Epistaxis: now resolved
   - humidified O2 when possible
   - transfuse platelets prn
   .
   # Asthma: Continue Albuterol, Fluticasone, & Ipratropium nebs Q6H PRN
   .
   # FEN: IVF as above, replete electrolytes, regular
   .
   # Prophylaxis:
   -DVT ppx with pneumoboots/CPAP
   -Bowel regimen, PPI
   -Pain management with tylenol PRN
   .
   # Access: peripherals
   # Communication: Patient
   # Code: FULL
   # Disposition: to BMT floor today if respiratory status remains stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-4-20**] 05:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-04-20 11:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overall, improving.
   States breathing is easier.
   Less rib pain.
   Up in chair.
   Speech more clear, fluent.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-4-17**] 12:00 PM
   Levofloxacin - [**2136-4-19**] 10:00 PM
   Cefipime - [**2136-4-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2136-4-20**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.7
   HR: 83 (70 - 83) bpm
   BP: 120/58(70) {108/50(66) - 138/78(86)} mmHg
   RR: 19 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
           Total In:
                                                                  5,716 mL
                                                                  3,682 mL
   PO:
                                                                  1,560 mL
                                                                  1,460 mL
   TF:
   IVF:
                                                                  4,156 mL
                                                                  1,872 mL
   Blood products:
   350 mL
   Total out:
                                                                  7,690 mL
                                                                  3,170 mL
   Urine:
                                                                  7,690 mL
                                                                  3,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,974 mL
                                                                    512 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal, Speech much clearer & fluent, sensorium much
   clearer
   Labs / Radiology
   7.4 g/dL
   50 K/uL
   159 mg/dL
   2.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   122 mg/dL
   105 mEq/L
   141 mEq/L
   21.1 %
   8.3 K/uL
        [image002.jpg]
                             [**2136-4-17**]  10:03 PM
                             [**2136-4-18**]  05:25 AM
                             [**2136-4-18**]  09:36 AM
                             [**2136-4-18**]  03:07 PM
                             [**2136-4-18**]  10:00 PM
                             [**2136-4-19**]  04:10 AM
                             [**2136-4-19**]  09:52 AM
                             [**2136-4-19**]  03:20 PM
                             [**2136-4-19**]  09:45 PM
                             [**2136-4-20**]  05:41 AM
   WBC
   11.5
   12.7
   9.7
   8.3
   Hct
   22.5
   24.5
   23.7
   23.1
   21.1
   Plt
   43
   66
   62
   55
   57
   50
   Cr
   3.6
   3.5
   3.5
   3.4
   3.3
   3.1
   3.0
   2.7
   2.5
   TropT
   0.01
   Glucose
   149
   163
   166
   147
   155
   174
   150
   159
   Other labs: PT / PTT / INR:17.0/23.1/1.5, CK / CKMB /
   Troponin-T:104/2/0.01, ALT / AST:67/88, Alk Phos / T Bili:54/0.4,
   Differential-Neuts:33.0 %, Band:1.0 %, Lymph:51.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:150 ng/mL, Fibrinogen:440 mg/dL, Lactic Acid:0.8
   mmol/L, LDH:2214 IU/L, Ca++:7.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   47 yom asthma, OSA, chronic low back pain, recent rib fracure now with
   multiple myeloma.  Gradual clinical improvement.
   RESPIRATORY DISTRESS -- Prior CXR and CT consistent with pulmonary
   edema, now much improved.  Underlying asthma, OSA, moderate pulmonary
   HTN.  Rib fractures likely contributing to limiting respiratory
   efforts.  Continue net diuresis.  Provide oxygen, maintain SaO2 >90%.
   PNEUMONIA -- Possible RLL pneuomonia.  Continue Levofloxacin &
   Cefepime, renal dosing.
   ASTHMA -- Continue Albuterol, Fluticasone, & Ipratropium nebs q6H PRN
   OSA
 Nasal CPAP at night at 11cm H20.
   MULTIPLE MYELOMA -- Dx confirmed by bone marrow biopsy.  Awaiting
   initiating chemotherapy.  Continue dexamethasome.
   ALTERED  MENTAL STATUS -- improved.  Monitor.
   FLUIDS -- Continue IVF's at 150cc NS/hr, titrate to UOP of
   200-300cc/hr.  Use lasix as needed.  Restrict PO intake.
   EPISTAXIS -- chronic history, escalation in context of
   thrombocytopenia.  If persists or escalated, consider ENT evaluation
   and packing
   THROMBOCYTOPENIA -- related to myeloma.  Good response to plts
   transfusion.  Monitor.  Transfuse <50
   HYPERCALCEMIA -- Likely malignant, improved since admission. Received
   Calcitonin ([**Date range (1) 12597**]) x 3 doses, Pamidronate ([**4-15**]). Receiving IVF's &
   Foley in place.  PTH low, TSH normal.
   HYPERURICEMIA -- Likely due to rate of cellular proliferation in
   conjunction with ARF. Received Rasburicase this PM.  Continue
   Allopurinol 100mg daily
   ACUTE RENAL FAILURE -- Cr 3.7 and continuing to rise. Renal following.
   Renal failure is likely tubular injury from cast nephropathy in
   conjunction with hypercalcemia, hyperuricemia.
   ANEMIA -- Low reticulocyte count, elevated haptoglobin & ferritin.
   demonstrating insufficient erythropoeisis.  No evidence of TTP or
   intravascular hemolysis.  Transfuse for HCT <25.  Guaiac stools
   FLUIDS -- IVF as above, replete electrolytes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-4-20**] 05:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:  Discussed with family members.
   [**Name (NI) 156**] status: Full code
   Disposition : Transfer to medical [**Hospital1 **]
   Total time spent: 40 minutes